US04473704
Benzyl Methanesulfonate
Under nitrogen methylene chloride (1.4 liter), benzyl alcohol (129.6 g., 1.2 moles) and triethylamine (182 g., 1.8 moles) were combined, stirred and cooled to -5° C. in an ice-water-acetone bath. A solution of methanesulfonyl chloride (150 g., 1.31 moles) in 100 ml. of methylene chloride was added over 49 minutes, maintaining the temperature between -5° and 2° C. After stirring for 10 minutes at 0°-2° C., the reaction was diluted with 500 ml. of water, precooled to 5° C. The organic layer was separated, washed 2×500 ml. of cold water, dried over MgSO4, filtered and evaporated in vacuo to yield title product as a light yellow oil [190 g.; 85%; 1H--NMR (CDCl3) delta (ppm): 2.9 (s, 3H), 5.2 (s, 2H), 7.4 (m, 5H); Rf 0.75 (CH2Cl 2)]. This product was refrigerated until used in the next step.

reactant | benzyl alcohol | 1.2 moles, 129.6 g | C(C1=CC=CC=C1)O | C7H8O
reactant | triethylamine | 1.8 moles, 182 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.31 moles, 150 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | Benzyl Methanesulfonate | 190 g, 85% | CS(=O)(=O)OCC1=CC=CC=C1 | C8H10O3S
